US04374128
(c) t-Butyl-(7-cyano-hepten-6-yl)carbamate
Sodium hydride (50% suspension in oil, 1.2 g, 0.025 mol) is placed in 100 ml of dry 1.2-dimethoxyethane. The slurry is cooled to 20° C. and diethylcyanomethyl phosphonate (4.43 g, 0.025 mol) is added dropwise with stirring. After the addition, the solution is stirred at room temperature for 1 hour until gas evolution has ceased. To the yellow solution, maintained below 25° C., is added dropwise t-butyl(5-formylpentyl)carbamate (5.38 g, 0.025 mol). The solution is stirred at room temperature for 1 hour and refluxed for 0.5 hour. A large excess of water is added and the product t-butyl-(7-cyanohepten-6-yl)carbamate (3.63 g, 61%) is extracted with ether.

reactant | Sodium hydride | 0.025 mol, 1.2 g | [H-].[Na+]
reactant | diethylcyanomethyl phosphonate | 0.025 mol, 4.43 g | P(OC(C#N)(CC)CC)([O-])=O
reactant | t-butyl(5-formylpentyl)carbamate | 0.025 mol, 5.38 g | C(C)(C)(C)OC(NCCCCCC=O)=O | C11H21NO3
reactant | water | O | H2O
solvent | 1.2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | t-Butyl-(7-cyano-hepten-6-yl)carbamate | C(C)(C)(C)OC(NC(CCCC=C)CC#N)=O | C13H22N2O2
